Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut / 
Wellbutrin / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ y.o. F with a PMHx notable for gastric 
bypass (c/b SBO), esophagitis/gastritis, PUD, HCV, hx DVT/PE on 
apixaban, CVA (___) with residual L 
hemiparesis/hemisensory loss, prior admission for non-convulsive
status epilepticus in setting of infection/malnutrition, hx 
substance use disorder and chronic pain on methadone, recent 
admission (___) for n/v/abdominal pain with unrevealing 
work-up, who presents from SNF with acute on chronic confusion.

Patient recently admitted ___ for lethargy and 
abdominal pain. At that time patient noted to have intermittent 
episodes of drowsiness and lethargy, which per daughter, occurs 
almost every day since she suffered her CVA. There was concern 
for potential polypharmacy with use of methadone and multiple 
sedating medications. Attempt was made to wean methadone while 
inpatient but was not successful. Abdominal pain attributed to 
known esophagitis/gastritis, and patient was treated with PPI 40 
mg BID, sucralfate, and anti-emetics. Patient was also noted to 
have significant weight loss of nearly 20 lbs thought secondary 
to abdominal pain, treated with carnation supplementation and 
multivitamins. 

Today, per ___ house notes, patient "appearing more 
confused, repeated words and statement multiple times, 
agitated." Note was made of initiation of 20 mg furosemide over 
weekend due to ___ edema. Vitals @ ___ 98.5 116/74, HR 
112, 88% RA. She was evaluated by in house MD, and due to 
concern for AMS patient was sent to us for further evaluation.  

I called ___ overnight, and spoke with RN for further 
clarification. ___ the RN I spoke to last saw patient 
___ and all of following is per report- at baseline 
patient AOx3 but frequently very sleepy- has to be woken up to 
eat and take medications, and is often too tired to engage in 
___. Needs 1 person assist with continuous supervision, and needs 
help getting
to the bathroom due to sleepiness. Patient had been reporting 
diarrhea, nut this was not witnessed by staff. Occasionally 
patient would have verbal outbursts, usually when she is 
frustrated, but then would become very apologetic afterwards. 
Since last week, staff had noted increasing word finding
difficulty, with extra pauses in sentences. In this setting 
patient underwent ambulatory EEG (Rx by Dr. ___ last week 
___ with no clinical events. She has been receiving all 
her AED's on schedule, and there were no witnessed seizures. 

In the ED:
Initial vital signs notable for: T98 HR97 BP112/79 RR18 O2-100% 
RA

Exam notable for:
+right lip droop baseline, AOx1 to person, generally confused
during conversation, diminished strength diffusely, weaker in
lower extremitites
diffuse anasarca
abd mildly tender diffusely, soft
Upon reevaluation she has a stage II sacral decubitus pressure
ulcer will attempt to place mepilex no c/f infection

Labs were notable for:
WBC 5.1 Hgb 12.1 Plt 394
Grossly hemolyzed sample- 134 | 100 | 18
                          ---------------
                          7.9 | 25 | 0.9
K 5.6 
Lactate 2.7 -> 2.0 on repeat
vBG 7.39/46/36 
UTox +TCA
UA: 23 WBC, no bacteria, large leuks, small blood, neg nitrites

Studies performed include:

NCHCT - No acute intracranial hemorrhage. No large territorial
infarct. No acute fracture.
CXR - No acute cardiopulmonary abnormality.

Patient was given: 1g ceftriaxone, calcium gluconate, home
gabapentin, keppra

Consults: Neurology - 
Less concerned for active epileptic process at this time, 
although brief EEG monitor may be useful to completely rule out 
subclinical activity. Weakness in LLE is more notable than those 
recently documented, but may be related to recrudescence I/s/o 
apparent UTI and potential vascular congestion. Neurology will 
follow as she is treated for her medical issues.
-Recommend admit to Medicine; if admitted, will follow on 
Consult service
-C/w home AED regimen
-Recommend routine EEG on admission
-Sz Precautions
-If pt develops clinical activity, call Neurology stat
-Ativan 2mg IV prn for seizure>5 minutes

Vitals on transfer: T98 HR88 BP122/78 RR17 O2-100

When I spoke to patient, she was AO x 3, and able to recall 
recent events. She shares that she has been having difficulty 
with short term > long term memory, and that in the past week, 
has had some trouble with word finding, often having to pause 
mid-sentence to stop and think. She wonders why this is the 
case.
She endorses increased ___ edema over the past several days, 
LLE>RLE, which she says is new (usually symmetric). She notes 
that at baseline she sleeps on ___ pillows and that she was 
instructed to do so by her physicians. She has had no chest pain 
or palpitations. 

She notes that she has not been eating well, and attributes this 
to post-prandial abdominal pain; also endorses dysphagia to 
solids and liquids. She tells me that this AM, she experienced 
shortness of breath while walking to the bathroom (at baseline 
uses walker), and thinks that she is admitted for her dyspnea. 
Overall, she knows that she is not doing well and needs help 
with
___, but is reluctant to admit this to herself. She is worried 
about her daughter, whom recently had brain surgery.

When asked about urinary symptoms, she denies any urinary 
frequency, hesitancy, dysuria. No fevers or chills.

Finally she wonders about why she has yet to receive her home 
methadone, noting that this is for chronic abdominal pain and 
that it has been recently weaned to 10 mg TID, which she is 
doing very well on.
 
Past Medical History:
- h/o HTN and DMII, resolved after gastric bypass per patient  
 - s/p cholecystectomy and gastric bypass (___), with f/u  
 complicated by multiple ex lap, gastrectomy, reversal surgery,  

 failed J-tube c/b colonic perforation  
 - multiple SBO during f/u from above  
 - hernia repair  
 - chronic abdominal pain, peptic ulcer disease  
 - asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE  
 - narcotic abuse, tobacco abuse  
 - depression, anxiety  
 - muscle weakness / myelopathy, chronic low back pain  
 - vulvar folliculitis  
 - arthorplasty - right total knee  
 - hepatitis C - positive ab test, negative HCV viral load in 2x 
 
 tests  
 - nephrolithiasis  
 - thyromegaly - TSH wnl, low free T4  

 
Social History:
___
Family History:
Many family members with strokes, HTN, DM. Brother with CHF. She 
reports her father may have had colon cancer around age ___, then 
had brain metastases (unclear if related or separate).
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 0020 Temp: 98.0 PO BP: 130/65 HR: 75 RR: 18 O2
sat: 100% O2 delivery: ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: +BS, diffusely tender to palpation throughout, most
prominent in RLQ, but no rebound/guarding
EXTREMITIES: 1+ ___ edema to level mid-shin on RLE, 2+ edema to
level of knee on LLE.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AO x3 [actually corrected me to say it was ___,
which was indeed correct], occasional hesitancy when speaking,
language with intact repetition. Able to name high frequency
objects. CN II-XII notable for decreased sensation to light 
touch
over L V1-V3 and some facial droop. RUE and RLE strength grossly
___, LUE ~4+/5 biceps flextion/extension, LLE ___ hip
flexion/extension.  

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 98.4 PO 108 / 74 R Lying 88 17 98 Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. EOMI. Sclera anicteric and without injection.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: +BS, nontender to palpation throughout, no 
rebound/guarding
EXTREMITIES: 1+ edema to level mid-shin on RLE, 2+ edema to
level of knee on LLE.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AO x3, occasional hesitancy when speaking, language 
with intact repetition. CN II-XII notable for decreased 
sensation to light touch over L V1-V3 and some facial droop. R 
side ___, LUE ~4+/5 triceps, LLE ___ hip flexion/extension, ___ 
foot flexion/extension  
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:40PM BLOOD WBC-5.1 RBC-3.72* Hgb-12.1 Hct-37.2 
MCV-100* MCH-32.5* MCHC-32.5 RDW-20.1* RDWSD-69.3* Plt ___
___ 12:40PM BLOOD Neuts-84.4* Lymphs-13.0* Monos-2.0* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.28 AbsLymp-0.66* 
AbsMono-0.10* AbsEos-0.00* AbsBaso-0.01
___ 12:40PM BLOOD Glucose-95 UreaN-18 Creat-0.9 Na-134* 
K-7.9* Cl-100 HCO3-25 AnGap-9*
___ 12:40PM BLOOD ALT-59* AST-155* AlkPhos-142* TotBili-0.7
___ 10:24PM BLOOD ALT-30 AST-30 LD(LDH)-289* AlkPhos-112* 
TotBili-0.5
___ 12:40PM BLOOD cTropnT-<0.01
___ 10:24PM BLOOD CK-MB-3 cTropnT-<0.01
___ 12:40PM BLOOD Albumin-2.3* Calcium-7.7* Phos-4.6* 
Mg-1.9
___ 10:24PM BLOOD Calcium-7.5* Phos-4.3 Mg-1.8
___ 12:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-10 
Tricycl-POS*
___ 10:33PM BLOOD ___ pO2-36* pCO2-46* pH-7.39 
calTCO2-29 Base XS-1
___ 12:46PM BLOOD Lactate-2.7* K-5.6*
___ 10:33PM BLOOD Lactate-2.0

___ 01:36PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:36PM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 01:36PM URINE RBC-5* WBC-23* Bacteri-NONE Yeast-NONE 
Epi-2
___ 01:36PM URINE CastHy-90*
___ 01:36PM URINE Mucous-RARE*

DISCHARGE LABS:
================
___ 09:30AM BLOOD WBC-3.2* RBC-2.58* Hgb-8.8* Hct-26.8* 
MCV-104* MCH-34.1* MCHC-32.8 RDW-20.6* RDWSD-71.5* Plt ___
___ 10:15AM BLOOD ___ PTT-29.0 ___
___ 09:30AM BLOOD Glucose-80 UreaN-19 Creat-0.8 Na-141 
K-4.4 Cl-106 HCO3-25 AnGap-10
___ 09:30AM BLOOD Calcium-7.3* Phos-3.1 Mg-1.8
___ 10:15AM BLOOD VitB12-996*
___ 10:15AM BLOOD Ammonia-<10
___ 10:15AM BLOOD TSH-2.9

MICROBIOLOGY:
=============
___ SEROLOGY/BLOOD RAPID PLASMA REAGIN TEST- NONREACTIVE. 

___ Blood Culture, Routine-PENDING  
___ URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
___ Blood Culture, Routine-PENDING 

IMAGING:
=========
___ CXR
No acute cardiopulmonary abnormality.

___ CT HEAD W/O CONTRAST
No acute intracranial process.

___ LENIS
No evidence of deep venous thrombosis in the left lower 
extremity veins.  Note is made of limited visualization of the 
left peroneal veins. 
 
Brief Hospital Course:
___ y.o. F with PMHx of CVA (___) with residual L 
hemiparesis/hemisensory loss, hx DVT/PE on xarelto, Roux-en-Y 
gastric bypass, prior admission for non-convulsive status 
epilepticus in setting of infection/malnutrition, hx substance
use disorder and chronic pain on methadone who presents from ___ 
with new confusion and report of dyspnea.

# Altered mental status 
# Word finding difficulty
Patient sent from rehab with report of "appearing more confused, 
repeated words and statement multiple times, agitated," 
increasing word finding difficulty, with extra pauses in 
sentences. Initial concern was for CVA vs seizure. CT head 
without contrast was not concerning for stroke. Patient had 
outpatient EEG earlier that week which was reassuring. She was 
evaluated by Neurology who felt she was at baseline and 
recommended against further imaging (MRI, EEG). Patient seemed 
to be mentating appropriately throughout her hospitalization. 
She was ultimately treated for a UTI but this was felt unlikely 
to cause her AMS. Infectious and metabolic workup was otherwise 
unrevealing (TSH, B12 WNL, RPR nonreactive, blood cultures NGTD, 
no leukocytosis). Doxepin and Seroquel were held due to concern 
for medication effect / prolonged QTc, patient was reported to 
be very sleepy at rehab. Doxepin was restarted at discharge, 
Seroquel was held (though patient reported she had not been 
receiving Seroquel at rehab to begin with). Methadone was also 
held but restarted. Patient received 2 doses of high-dose IV 
Thiamine, though ultimately Wernicke's was felt to be unlikely. 

# Dizziness
Patient reported feeling dizzy upon standing for the past 3 days 
prior to admission, coinciding with starting Lasix for lower 
extremity edema, which was stopped on admission. Patient 
continued to report some dizziness with standing. Orthostatic 
vital signs were not positive but patient did not tolerate 
standing due to dizziness. She was evaluated by ___ who suspected 
some mild orthostasis (rather than vertigo) and recommended 
continuing to work on this at rehab. Neurology was not concerned 
for BPPV. Compression stockings were placed and encouraged PO 
intake.

# UTI
Positive UA in ED, which appeared consistent with her priors. 
Received 1 dose of IV ceftriaxone for UTI, then denied dysuria 
so antibiotics were stopped as she was thought to be colonized. 
Then she reported adamantly that she did have dysuria. Urine 
culture was contaminated, but patient was started on 5d course 
of macrobid for empiric treatment of uncomplicated UTI, to be 
completed ___.

# Moderate Protein Calorie Malnutrition 
# Report of Weight Loss
# Poor Appetite
# History of gastric bypass
# Gastritis / Esophagitis
# Thrush
Patient reported worsened abdominal pain after eating and 
dysphagia to both solids and liquids. She has had multiple prior 
GI workups, had EGD with esophagitis ___ which could 
certainly contribute, and thrush on exam for which she was 
started on Nystatin. She had a10 lb weight loss 177 -> 165 since 
___, but it appears that her weight has been stable since at 
least ___, though she reported a 13lb unintentional weight 
loss over the past two months. Nutrition consult was obtained, 
concerned for moderate malnutrition, recommended appetite 
stimulant versus supplemental nutrition support if after a few 
days her appetite did not improve. This was briefly discussed 
with patient who agreed to defer decision to outpatient setting. 
Recommended carnation instant breakfast 4xday. Would recommend 
outpatient GI followup as well as routine screening colonoscopy 
(past due, was due ___. Continued home omeprazole 40 mg BID. 

# Dyspnea
No evidence of PNA on CXR and SpO2 100% on RA upon arrival to ED 
without any intervention, 100% on RA while on floor. Looked 
euvolemic to slightly dry. Last TTE ___ with moderate to 
severe TR with moderate PA systolic hypertension, presumably 
related to history of significant PE. TTE was repeated which 
showed improvement in the degree of TR (mild) and PA systolic 
hypertension (now mild), EF 57%.

# Prolonged QTc Interval
# Chronic Pain requiring methadone
Patient on home regimen of Methadone 10mg TID. Her QTc on 
arrival to the ED ___ was 584. Per most recent d/c summary, 
there was an attempt to wean methadone while inpatient however 
patient was unwilling to do so therefore she was discharged on 
prior regimen. QTc improved on HD1, methadone was restarted. EKG 
was obtained for QTc monitoring on discharge and was normal 
(though reported to be 485 via automated calculator). 

# History of DVT/PE
# Asymmetric ___ edema
Noted to have asymmetric ___ edema. + History of DVT/PE ___- 
bilateral popliteal DVTs, posterior tibial veins, bilateral 
pulmonary emboli involving nearly all segmental branches and a 
possible pulmonary infarct, currently on apixaban (switched from 
rivaroxaban for better absorption)). LENIS were obtained showing 
no DVT. She remained on home apixaban. 

# Transaminitis: Likely lab error (hemolyzed), normalized on 
repeat. 
# Elevated lactate: 2.7 -> 2.0, resolved without intervention. 
2.7 on admission. ___ also be secondary to hemolyzed labs. 

# Goals of care 
When asked about code status, patient notes she has thought 
about this during her last stroke, and had wanted to be DNR/DNI, 
but was told by her children that would be selfish. Currently 
wants more time to think about this question, but at the very 
least she is certain that she wouldn't want to rely on machines 
long term. She is thinking about what minimum quality of life 
would be acceptable for her; notes that being able to 
communicate is important, and she also derives great pleasure in
feeding/taking care of her cat. Code status currently Full with 
limited trial.

===============
CHRONIC ISSUES:
===============
# Hx of CVA despite Xarelto
# L side weakness
Stable neurologic exam with L side weakness and decreased facial 
sensation, mild facial droop. Stroke thought likely embolic, 
although no documented afib. Was seen ___ by hematology for 
ongoing anticoagulation with apixaban. Per neurology ___ opted 
to continue patient on anticoagulation pending stroke neurology 
follow up. Continued home atorvastatin. 

# Chronic pain
Initially held home Methadone 10 TID given prolonged QTc, 
continued home gabapentin, bowel regimen.

# Chronic anemia
Admission Hgb 12.1, suspect hemoconcentration I/s/o dehydration. 
8.8 on discharge, consistent with prior hospitalization. 
Continued home B12 and folate.

# Epilepsy
Continued home Levetiracetam 1500 mg BID, Lacosamide 200 mg BID

# Depression/Anxiety
Held home Doxepin and Seroquel (see above), restarted on 
discharge. Continued home Duloxetine. 

TRANSITIONAL ISSUES:
======================
[] Started 5d course of macrobid ___ mg Q12H for UTI, end date 
___
[] 7d course of Nystatin oral suspension ___ 
[] Added carnation instant breakfast 4xday, consider outpatient 
nutrition followup
[] Would recommend outpatient GI followup as well as routine 
screening colonoscopy (past due, was due ___. 
[] ___ have some mild orthostasis after starting Lasix, which 
was discontinued. Started wearing compression stockings. Please 
monitor for signs of orthostasis.
[] QTc was prolonged on admission, would recommend repeat EKG 
prior to restarting Seroquel, which was held on discharge
[] Continued discussion of goals of care recommended

#CODE: Full, limited trial
#CONTACT: ___ 
___: Mother 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO BID 
2. Zinc Sulfate 220 mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Atorvastatin 40 mg PO QPM 
5. Cyanocobalamin 100 mcg PO DAILY 
6. DULoxetine 40 mg PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Gabapentin 100 mg PO TID 
9. LACOSamide 200 mg PO BID 
10. LevETIRAcetam 1500 mg PO BID 
11. Methadone 10 mg PO TID 
12. Thiamine 100 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID 
14. Senna 17.2 mg PO BID 
15. Sucralfate 1 gm PO QID 
16. Magnesium Oxide 400 mg PO BID 
17. Multivitamins W/minerals 1 TAB PO DAILY 
18. Doxepin HCl 50 mg PO HS 
19. Promethazine 6.25 mg PO BID:PRN nausea 
20. QUEtiapine Fumarate 75 mg PO QHS 
21. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H  
2.  Nystatin Oral Suspension 5 mL PO QID Duration: 7 Days  
3.  Apixaban 5 mg PO BID  
4.  Atorvastatin 40 mg PO QPM  
5.  Cyanocobalamin 100 mcg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Doxepin HCl 50 mg PO HS  
8.  DULoxetine 40 mg PO DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Gabapentin 100 mg PO TID  
11.  LACOSamide 200 mg PO BID  
12.  LevETIRAcetam 1500 mg PO BID  
13.  Magnesium Oxide 400 mg PO BID  
14.  Methadone 10 mg PO TID 
RX *methadone 10 mg 1 tablet by mouth three times a day Disp 
#*15 Tablet Refills:*0 
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Omeprazole 40 mg PO BID  
17.  Promethazine 6.25 mg PO BID:PRN nausea  
18.  Senna 17.2 mg PO BID  
19.  Sucralfate 1 gm PO QID  
20.  Thiamine 100 mg PO DAILY  
21.  Zinc Sulfate 220 mg PO DAILY  
22. HELD- QUEtiapine Fumarate 75 mg PO QHS  This medication was 
held. Do not restart QUEtiapine Fumarate until you need it and 
your heart can tolerate it

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Altered mental status 
Word finding difficulty
Dizziness 
UTI
Moderate Protein Calorie Malnutrition 
Thrush
Dyspnea
Prolonged QTc Interval
Asymmetric ___ edema

Secondary:
CVA w left sided deficitis
Chronic pain
Epilepsy
Chronic anemia
Depression/Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because your rehab was worried that you 
were confused, and you felt dizzy and short of breath.

While you were here, you were seen by our Neurologists and they 
felt that you did not have a stroke or a seizure.

You had a urine sample that may show a urinary tract infection. 
You will have 5 days of antibiotics for this.

You had dizziness with movement that may be due to starting 
Lasix and becoming a little dehydrated. We stopped your Lasix 
and are hopeful this will improve as long as you stay well 
hydrated.

You had some sleepiness that improved with stopping Seroquel. 

When you leave the hospital:
- please work on getting stronger at rehab
- please make sure you are drinking enough water throughout the 
day especially if you feel dizzy
- when you sit up and stand up, please take your time to do this 
very slowly, pausing for a few minutes between movements 
- focus on increasing your food intake and drink the carnation 
instant breakfast 
- talk to your primary care doctor about seeing a stomach doctor 
to talk about your belly pain and weight loss

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___